US08791107B2
PREPARATION x84: 2-((2-chloro-6a,7,9,10-tetrahydro-[1,4]oxazino[3,4-h]pteridin-5(6H)-yl)methyl)-4-methylbenzamide
To a 20 mL round-bottomed flask charged with 2-((2-chloro-6a,7,9,10-tetrahydro-[1,4]oxazino[3,4-h]pteridin-5(6H)-yl)methyl)-4-methylbenzonitrile (PREPARATION x83, 52 mg, 0.146 mmol) was added sulfuric acid (1.6 mL, 29.2 mmol). The resulting yellow solution was stirred overnight at room temperature and was subsequently diluted with EtOAc and washed with saturated NaHCO3 to adjust the pH to −8. The combined organic layers were dried over MgSO4, filtered, and concentrated to give an orange solid, which was used without further purification. 1H NMR (400 MHz, DMSO-d6) δ ppm 2.88-3.02 (m, 5H), 3.09-3.18 (m, 3H), 3.19-3.28 (m, 2H), 3.41-3.51 (m, 3H), 3.59-3.71 (m, 2H), 3.80-3.91 (m, 3H), 3.91-4.00 (m, 2H), 4.19-4.29 (m, 3H), 4.30-4.58 (m, 2H), 7.16-7.29 (m, 10H), 7.37-7.45 (m, 2H), 7.73-7.82 (m, 2H); ESI-MS m/z [M+H]+ calc'd for C18H20ClN5O2, 374.1. found 374.2.

reactant | 2-((2-chloro-6a,7,9,10-tetrahydro-[1,4]oxazino[3,4-h]pteridin-5(6H)-yl)methyl)-4-methylbenzonitrile | 0.146 mmol, 52 mg | ClC1=NC=2N3C(CN(C2C=N1)CC1=C(C#N)C=CC(=C1)C)COCC3 | C18H18ClN5O
reactant | sulfuric acid | 29.2 mmol, 1.6 mL | S(O)(O)(=O)=O | H2O4S
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-((2-chloro-6a,7,9,10-tetrahydro-[1,4]oxazino[3,4-h]pteridin-5(6H)-yl)methyl)-4-methylbenzamide | ClC1=NC=2N3C(CN(C2C=N1)CC1=C(C(=O)N)C=CC(=C1)C)COCC3 | C18H20ClN5O2
